* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Add_Back_In_Vbe_Offset.asc
Q1 N001 VBE 0 0 2N3904
Q2 N004 VBE 0 0 2N3906
R1 V+ N001 20K
R2 N004 V- 20K
R3 VBE VI 5K
V1 V+ 0 20V
V2 V- 0 -20V
V3 VI 0 SINE(10 5 1K .002 0 0 5)
XU1 N006 N008 V+ V- VO tlv9352
R4 VO N008 10K
R5 N008 0 10K
R6 N006 N005 10K
R7 N006 SIG 10K
XU2 VBE N005 V+ V- N005 tlv9352
Q3 N007 N009 SIG 0 2N3904
Q4 N010 N009 SIG 0 2N3906
R8 V+ N007 10K
R9 N010 V- 10K
R10 N009 VI 5K
R11 VO 0 10K
C1 VI VI 1µF
.model NPN NPN
.model PNP PNP
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 9e-3
.lib tlv9352.lib
.backanno
.end
