* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Current Amp-PowerAmp.asc
XU1 N006 N009 VCC VEE N007 tlv9352
V1 VCC 0 15
V2 VEE 0 -15
D1 N008 VB 1N4148
D2 N005 N008 1N4148
D3 VT N005 1N4148
Q3 N010 VB N012 0 SST4403
Q4 N010 N012 VEE 0 2SCR582D3
R1 VCC VT 500
R2 VB VEE 500
R3 N003 VO .2
R4 VO N010 .2
R5 N006 VI 1K
V3 NC_01 0 SINE(10 1 5k 1m 0 0 10)
V4 VI 0 3.3
R6 VO 0 3.3
C1 VO 0 100µ
R7 N008 N007 10
Q8 VCC N001 N003 0 2SCR582D3
Q1 VCC VT N001 0 SST4401
R8 N006 0 1K
R9 N009 0 10K
R10 VO N009 10K
Q2 N011 VB N013 0 SST4403
Q5 N011 N013 VEE 0 2SCR582D3
R11 N004 VO .2
R12 VO N011 .2
Q6 VCC N002 N004 0 2SCR582D3
Q7 VCC VT N002 0 SST4401
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.lib tlv9352.lib
.backanno
.end
