* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Current Amplifier-1_REV_21.asc
V1 VCC 0 16
V2 VEE 0 -16
R3 N006 VO .1
R4 VO N013 .1
V3 VIN 0 SINE(0 15 5K .0005 0 0 10) AC 15
RL VO 0 3
CL VO 0 300µ
R1 VCC N005 200
R2 N017 VEE 510
R5 N007 VO .1
R6 VO N014 .1
R7 N009 VO .1
R8 VO N016 .1
D7 VO VCC 1N5817
D8 VEE VO 1N5817
Q6 N018 VB2 N013 0 MMBT4403
Q5 N001 VB1 N006 0 2N4401
Q4 N006 N001 VCC 0 2SAR582D3
Q1 N013 N018 VEE 0 2SCR582D3
V4 NC_01 0 0
Q2 N002 VB1 N007 0 2N4401
Q7 N007 N002 VCC 0 2SAR582D3
Q8 N004 VB1 N009 0 2N4401
Q9 N009 N004 VCC 0 2SAR582D3
Q10 N019 VB2 N014 0 MMBT4403
Q11 N014 N019 VEE 0 2SCR582D3
Q12 N021 VB2 N016 0 MMBT4403
Q13 N016 N021 VEE 0 2SCR582D3
R9 N008 VO .1
R10 VO N015 .1
Q14 N003 VB1 N008 0 2N4401
Q16 N008 N003 VCC 0 2SAR582D3
Q17 N020 VB2 N015 0 MMBT4403
Q18 N015 N020 VEE 0 2SCR582D3
R11 VB2 N017 .01
R12 VB1 N005 .01
XU1 VIN N010 VCC VEE N010 tlv9352
R13 N011 N010 1K
R14 N012 N010 1K
Q15 VCC N012 N017 0 DJT4031N
Q3 VEE N011 N005 0 DJT4030P
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 3m
;ac dec 3m 10 10K
* Note emitter resistance of R1 is less than R2 because it was found if they were even the\nnegative output voltage swing would be less than the positive output swing - This provides more \navailable base current for amplification.
* Full test condition is input of 10KHz at sine wave of +/-15V peak to peak.  This will be unrealistic\nin a real environment, but the circuit can support it with some loss of amplitude (hence BW).
.MODEL DJT4030P PNP (IS=5.5e-13 NF=1 ISE=1.3e-13 NE=1.5 BF=360 VAF=36 IKF=8 ISC=1.1e-13 NC=1.28 BR=55 VAR=6.6 IKR=1.4 RE=9e-3 RB=300e-3 RC=9e-3 CJE=380e-12 VJE=0.7 MJE=0.4 CJC=111e-12 VJC=0.4 MJC=0.35 TF=8.5e-10 TR=3.7e-9 XTB=1.6 QUASIMOD=1 RCO=0.24 GAMMA=6e-10)
.MODEL DJT4031N NPN (IS=1e-14 BF=200 VAF=100 IKF=0.3 XTB=1.5 BR=5 CJC=10pF CJE=20pF TF=0.5ns TR=10ns)
.lib tlv9352.lib
.backanno
.end
