* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Draft3.asc
V1 N004 0 PULSE(.2 2.5 .001 .00001 .00001 .001 .002 5)
V2 N001 0 15
R1 N002 N003 1.3K
D1 N001 N002 D
XU2 N003 N004 0 DMN3023L
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .01
.lib DMN3023L.MOD
.backanno
.end
